US06703421B1
4-(2-Indanylamino)furo[2,3-d]pyrimidine
A mixture of 2-amino-3-cyanofuran (270 mg, 2.5 mmol), triethyl orthoformate (1.5 ml, 9.0 mmol), and acetic anhydride (0.18 ml, 1.9 mmol) was heated to reflux at 130° C. for 2 hours. The reaction mixture was cooled, and 2-aminoindan (670 mg, 5.0 mmol), sodium acetate (640 mg, 7.8 mmol), and acetic acid (1.1 ml, 19 mmol) were added, which was further heated to reflux at 130° C. for 2 hours. The residue obtained by distilling off the solvent under reduced pressure was purified by silica gel chromatography (hexane:ethyl acetate=2:1) to obtain the title compound (44 mg, 0.18 mmol) having the following physical properties:

reactant | 2-amino-3-cyanofuran | 2.5 mmol, 270 mg | NC=1OC=CC1C#N | C5H4N2O
reactant | triethyl orthoformate | 9.0 mmol, 1.5 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 1.9 mmol, 0.18 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-aminoindan | 5.0 mmol, 670 mg | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | sodium acetate | 7.8 mmol, 640 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 19 mmol, 1.1 ml | C(C)(=O)O | C2H4O2
product | 4-(2-Indanylamino)furo[2,3-d]pyrimidine | 0.18 mmol, 44 mg | C1C(CC2=CC=CC=C12)NC=1C2=C(N=CN1)OC=C2 | C15H13N3O
